US04594347
7-Amino-8,9-difluoro-2-methyl-6-oxo-1,2-dihydro-pyrrolo[3,2,1-ij]quinoline-5-carboxylic acid (0.5 g) and 4-hydroxypiperidine (1.0 g) are suspended in N-methylpyrrolidone (5 ml), and the mixture is heated at 110°-120° C. for 5 hours. The reaction mixture is concentrated to dryness under reduced pressure, and to the residue is added ethanol. The resulting crystals are separated by filtration and recrystallized from N,N-dimethylformamide to give 7-amino-8-fluoro-9-(4-hydroxy-1-piperidyl)-2-methyl-6-oxo-1,2-dihydro-pyrrolo[3,2,1-ij]quinoline-5-carboxylic acid (0.2 g) as yellow cubic crystals. m.p. 287°-292° C. (decomp.)

reactant | 7-Amino-8,9-difluoro-2-methyl-6-oxo-1,2-dihydro-pyrrolo[3,2,1-ij]quinoline-5-carboxylic acid | 0.5 g | NC1=C2C(C(=CN3C2=C(C(=C1F)F)CC3C)C(=O)O)=O | C13H10F2N2O3
reactant | 4-hydroxypiperidine | 1.0 g | OC1CCNCC1 | C5H11NO
solvent | N-methylpyrrolidone | 5 ml | CN1C(CCC1)=O | C5H9NO
product | 7-amino-8-fluoro-9-(4-hydroxy-1-piperidyl)-2-methyl-6-oxo-1,2-dihydro-pyrrolo[3,2,1-ij]quinoline-5-carboxylic acid | 0.2 g | NC1=C2C(C(=CN3C2=C(C(=C1F)N1CCC(CC1)O)CC3C)C(=O)O)=O | C18H20FN3O4
